* NGSPICE file created from mux8onehot_cap_0410.ext - technology: sky130A

.subckt sky130_fd_sc_hd__inv_2 A VGND VNB VPB VPWR Y
X0 Y A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.27 pd=2.54 as=0.26 ps=2.52 w=1 l=0.15
X1 VGND A Y VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.1755 ps=1.84 w=0.65 l=0.15
X2 Y A VGND VNB sky130_fd_pr__nfet_01v8 ad=0.1755 pd=1.84 as=0.169 ps=1.82 w=0.65 l=0.15
X3 VPWR A Y VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.27 ps=2.54 w=1 l=0.15
.ends

.subckt sky130_fd_sc_hd__and2_1 A B VGND VNB VPB VPWR X
X0 VPWR B a_59_75# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.16655 pd=1.39 as=0.0567 ps=0.69 w=0.42 l=0.15
X1 X a_59_75# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.475 pd=2.95 as=0.16655 ps=1.39 w=1 l=0.15
X2 VGND B a_145_75# VNB sky130_fd_pr__nfet_01v8 ad=0.1118 pd=1.04 as=0.0567 ps=0.69 w=0.42 l=0.15
X3 a_59_75# A VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0567 pd=0.69 as=0.1176 ps=1.4 w=0.42 l=0.15
X4 X a_59_75# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.182 pd=1.86 as=0.1118 ps=1.04 w=0.65 l=0.15
X5 a_145_75# A a_59_75# VNB sky130_fd_pr__nfet_01v8 ad=0.0567 pd=0.69 as=0.1176 ps=1.4 w=0.42 l=0.15
.ends

.subckt sky130_fd_sc_hd__and2b_1 A_N B VGND VNB VPB VPWR X
X0 VPWR B a_207_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2279 pd=1.74 as=0.0609 ps=0.71 w=0.42 l=0.15
X1 X a_207_413# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.26 pd=2.52 as=0.2279 ps=1.74 w=1 l=0.15
X2 a_297_47# a_27_413# a_207_413# VNB sky130_fd_pr__nfet_01v8 ad=0.0504 pd=0.66 as=0.1092 ps=1.36 w=0.42 l=0.15
X3 X a_207_413# VGND VNB sky130_fd_pr__nfet_01v8 ad=0.169 pd=1.82 as=0.1013 ps=0.99 w=0.65 l=0.15
X4 a_207_413# a_27_413# VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0609 pd=0.71 as=0.0714 ps=0.76 w=0.42 l=0.15
X5 VPWR A_N a_27_413# VPB sky130_fd_pr__pfet_01v8_hvt ad=0.0714 pd=0.76 as=0.1092 ps=1.36 w=0.42 l=0.15
X6 VGND B a_297_47# VNB sky130_fd_pr__nfet_01v8 ad=0.1013 pd=0.99 as=0.0504 ps=0.66 w=0.42 l=0.15
X7 a_27_413# A_N VGND VNB sky130_fd_pr__nfet_01v8 ad=0.1092 pd=1.36 as=0.1092 ps=1.36 w=0.42 l=0.15
.ends

.subckt sky130_fd_sc_hd__decap_4 VGND VNB VPB VPWR
X0 VPWR VGND VPWR VPB sky130_fd_pr__pfet_01v8_hvt ad=0.2262 pd=2.26 as=0.4524 ps=4.52 w=0.87 l=1.05
X1 VGND VPWR VGND VNB sky130_fd_pr__nfet_01v8 ad=0.143 pd=1.62 as=0.286 ps=3.24 w=0.55 l=1.05
.ends

.subckt passgatesCtrlManual SEL0 SEL1 SEL2 gno0 gpo0 gno1 gpo1 gno2 gpo2 gno3 gpo3
+ nSEL2 VPWR VGND
Xx1 SEL0 VGND VGND VPWR VPWR nSEL0 sky130_fd_sc_hd__inv_2
Xx2 SEL1 VGND VGND VPWR VPWR nSEL1 sky130_fd_sc_hd__inv_2
Xx7 nSEL0 nSEL1 VGND VGND VPWR VPWR gno0 sky130_fd_sc_hd__and2_1
Xx8 SEL1 SEL0 VGND VGND VPWR VPWR gno1 sky130_fd_sc_hd__and2b_1
Xx9 SEL0 SEL1 VGND VGND VPWR VPWR gno2 sky130_fd_sc_hd__and2b_1
Xx10 SEL1 SEL0 VGND VGND VPWR VPWR gno3 sky130_fd_sc_hd__and2_1
Xx11 gno0 VGND VGND VPWR VPWR gpo0 sky130_fd_sc_hd__inv_2
Xx12 gno1 VGND VGND VPWR VPWR gpo1 sky130_fd_sc_hd__inv_2
Xx13 gno2 VGND VGND VPWR VPWR gpo2 sky130_fd_sc_hd__inv_2
Xx15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
Xx14 gno3 VGND VGND VPWR VPWR gpo3 sky130_fd_sc_hd__inv_2
Xx16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
Xx17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
Xx18 SEL2 VGND VGND VPWR VPWR nSEL2 sky130_fd_sc_hd__inv_2
Xx19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
.ends

.subckt sky130_fd_pr__nfet_01v8_lvt_PEJ72P a_n35_21# a_35_109# a_n195_n1883# a_n35_n1797#
+ a_n93_n1709# a_n93_109# a_35_n1709#
X0 a_35_n1709# a_n35_n1797# a_n93_n1709# a_n195_n1883# sky130_fd_pr__nfet_01v8_lvt ad=2.32 pd=16.58 as=2.32 ps=16.58 w=8 l=0.35
X1 a_35_109# a_n35_21# a_n93_109# a_n195_n1883# sky130_fd_pr__nfet_01v8_lvt ad=2.32 pd=16.58 as=2.32 ps=16.58 w=8 l=0.35
.ends

.subckt sky130_fd_pr__pfet_01v8_lvt_4QFMR3 a_n35_21# a_n93_118# a_n35_n2215# a_n93_n2118#
+ a_35_118# a_35_n2118# w_n231_n2337#
X0 a_35_n2118# a_n35_n2215# a_n93_n2118# w_n231_n2337# sky130_fd_pr__pfet_01v8_lvt ad=2.9 pd=20.58 as=2.9 ps=20.58 w=10 l=0.35
X1 a_35_118# a_n35_21# a_n93_118# w_n231_n2337# sky130_fd_pr__pfet_01v8_lvt ad=2.9 pd=20.58 as=2.9 ps=20.58 w=10 l=0.35
.ends

.subckt passgate A GN GP Z VSS VDD
XXM1 GN Z VSS GN A A Z sky130_fd_pr__nfet_01v8_lvt_PEJ72P
XXM3 GP Z GP Z A A VDD sky130_fd_pr__pfet_01v8_lvt_4QFMR3
.ends

.subckt passgatex4 A1 GN1 GP1 Z1 A2 GN2 GP2 Z2 A3 GN3 GP3 Z3 A4 GN4 GP4 Z4 VSS VDD
Xx1 A1 GN1 GP1 Z1 VSS VDD passgate
Xx2 A2 GN2 GP2 Z2 VSS VDD passgate
Xx3 A3 GN3 GP3 Z3 VSS VDD passgate
Xx4 A4 GN4 GP4 Z4 VSS VDD passgate
.ends

.subckt mux8onehot select1 A1 A2 A3 A4 A5 A6 A7 A8 Z VDD select2 select0 VSS
Xx1 select0 select1 select2 x3/GN1 x3/GP1 x3/GN2 x3/GP2 x3/GN3 x3/GP3 x3/GN4 x3/GP4
+ x5/GN VDD VSS passgatesCtrlManual
Xx2 A1 x3/GN1 x3/GP1 x5/A A2 x3/GN2 x3/GP2 x5/A A3 x3/GN3 x3/GP3 x5/A A4 x3/GN4 x3/GP4
+ x5/A VSS VDD passgatex4
Xx3 A5 x3/GN1 x3/GP1 x4/A A6 x3/GN2 x3/GP2 x4/A A7 x3/GN3 x3/GP3 x4/A A8 x3/GN4 x3/GP4
+ x4/A VSS VDD passgatex4
Xx4 x4/A select2 x5/GN Z VSS VDD passgate
Xx5 x5/A x5/GN select2 Z VSS VDD passgate
.ends

.subckt sky130_fd_pr__nfet_01v8_HHPQSU a_25_n100# a_n33_n188# a_n185_n274# a_n83_n100#
X0 a_25_n100# a_n33_n188# a_n83_n100# a_n185_n274# sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.25
.ends

.subckt sky130_fd_pr__nfet_01v8_2B38KW a_n260_n274# a_100_n100# a_n158_n100# a_n100_n188#
X0 a_100_n100# a_n100_n188# a_n158_n100# a_n260_n274# sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=1
.ends

.subckt sky130_fd_pr__cap_mim_m3_1_A5W7HU m3_n386_n240# c1_n346_n200#
X0 c1_n346_n200# m3_n386_n240# sky130_fd_pr__cap_mim_m3_1 l=2 w=2
.ends

.subckt transistor_evaluate_cap_0410 A1 BIAS VDD VSS
XXM4 VDD A1 VSS VSS sky130_fd_pr__nfet_01v8_HHPQSU
XXM5 VSS VSS A1 BIAS sky130_fd_pr__nfet_01v8_2B38KW
XXC1 VSS BIAS sky130_fd_pr__cap_mim_m3_1_A5W7HU
XXC2 VSS A1 sky130_fd_pr__cap_mim_m3_1_A5W7HU
.ends

.subckt pulldown_mosfet_cap_0410 A2 VDD A1 BIAS A4 A5 A6 A7 A8 A3 VSS
Xx1 A1 BIAS VDD VSS transistor_evaluate_cap_0410
Xx2 A2 BIAS VDD VSS transistor_evaluate_cap_0410
Xx3 A3 BIAS VDD VSS transistor_evaluate_cap_0410
Xx4 A4 BIAS VDD VSS transistor_evaluate_cap_0410
Xx5 A5 BIAS VDD VSS transistor_evaluate_cap_0410
Xx6 A6 BIAS VDD VSS transistor_evaluate_cap_0410
Xx7 A7 BIAS VDD VSS transistor_evaluate_cap_0410
Xx8 A8 BIAS VDD VSS transistor_evaluate_cap_0410
.ends

.subckt mux8onehot_cap_0410 SEL0 SEL1 SEL2 VDD VSS V_gate BIAS V_drain
Xx1 SEL1 x2/A1 x2/A2 x2/A3 x2/A4 x2/A5 x2/A6 x2/A7 x2/A8 V_gate VDD SEL2 SEL0 VSS
+ mux8onehot
Xx2 x2/A2 V_drain x2/A1 BIAS x2/A4 x2/A5 x2/A6 x2/A7 x2/A8 x2/A3 VSS pulldown_mosfet_cap_0410
.ends

